US05166347
Isopropyl N-cyano-3-pyridinecarboximidate (0.20 g, 1.1 mmol) was dissolved in methanol (5 ml), and 2-benzyloxy-2-phenylethylamine (0.26 g, 1.1 mmol) was added. The mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 20 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure to give N-cyano-N'-(2-benzyloxy-2-phenylethyl)-3-pyridinecarboximidamide (0.24 g, 0.7 mmol, yield: 64%) as colorless syrup. Next, to this syrup was added a 5% hydrogen chloride in methanol (2 ml). The solution was crystallized from methanol-diethyl ether to give N-cyano-N'-(2-benzyloxy-2-phenylethyl)-3-pyridinecarboximidamide hydrochloride as colorless powder.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 1.1 mmol, 0.20 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 2-benzyloxy-2-phenylethylamine | 1.1 mmol, 0.26 g | C(C1=CC=CC=C1)OC(CN)C1=CC=CC=C1 | C15H17NO
solvent | methanol | 5 ml | CO | CH4O
product | N-cyano-N'-(2-benzyloxy-2-phenylethyl)-3-pyridinecarboximidamide | 0.7 mmol, 0.24 g, yield: 64% | C(#N)NC(=NCC(C1=CC=CC=C1)OCC1=CC=CC=C1)C=1C=NC=CC1 | C22H20N4O
